US05578627
To a solution of 0.67 g of 3-(2-tert-butoxycarbonylamino-4-hydroxybutoxy)-5-chloro-1,2-benzoisoxazole in 6 ml of methylene chloride is added 0.30 g of chlorosulfonyl isocyanate at -30° C., and the temperature is gradually elevated to 0° C., after which 5 ml of water is added and they are stirred for 30 minutes. The solvent is removed by distillation under reduced pressure, water and ethyl acetate are added to the residue obtained, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The oily product obtained is dissolved in 8 ml of methanol, and thereto is added 1.5 ml of a 2-propanol solution (6.5M) of hydrogen chloride at room temperature, after which they are subjected to reaction at the same temperature for 18 hours. The crystals precipitated are collected by filtration, to obtain 0.29 g of colorless, crystalline 3-(2-amino-4-carbamoyloxybutoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 213.5°-215.5° C.

reactant | 3-(2-tert-butoxycarbonylamino-4-hydroxybutoxy)-5-chloro-1,2-benzoisoxazole | 0.67 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CCO | C16H21ClN2O5
reactant | chlorosulfonyl isocyanate | 0.30 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 5 ml | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 8 ml | CO | CH4O
solvent | 2-propanol | 6.5M, 1.5 ml | CC(C)O | C3H8O
product | 3-(2-amino-4-carbamoyloxybutoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CCOC(N)=O | InChI=1S/C12H14ClN3O4.ClH/c13-7-1-2-10-9(5-7)11(16-20-10)19-6-8(14)3-4-18-12(15)17;/h1-2,5,8H,3-4,6,14H2,(H2,15,17);1H
